US08124641B2
To a solution of ((R)-4-amino-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester (446 mg, 2.0 mmol) and 3-bromo-5-trifluoromethyl-benzenesulfonyl chloride (970 mg, 3.0 mmol) in tetrahydrofuran (5 mL) was added a solution of dimethyl-pyridin-4-yl-amine (489 mg, 4.0 mmol) in tetrahydrofuran (5 mL) dropwise. After being stirred at room temperature overnight, the mixture was concentrated. The residue was purified by column chromatography (gradient elution, 0-5% methanol in dichloromethane) to afford [(R)-4-(3-bromo-5-trifluoromethyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-indazol-1-yl]-acetic acid ethyl ester (750 mg, 63.6%) as a white solid. MS calcd. for C18H19BrF3N3O4S 509, obsd. (ESI+) [(M+H)+] 510.

reactant | ((R)-4-amino-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester | 2.0 mmol, 446 mg | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N)=O | C11H17N3O2
reactant | 3-bromo-5-trifluoromethyl-benzenesulfonyl chloride | 3.0 mmol, 970 mg | BrC=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)Cl | C7H3BrClF3O2S
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | dimethyl-pyridin-4-yl-amine | 4.0 mmol, 489 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | [(R)-4-(3-bromo-5-trifluoromethyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-indazol-1-yl]-acetic acid ethyl ester | 750 mg, 63.6% | C(C)OC(CN1N=CC=2[C@@H](CCCC12)NS(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)Br)=O | C18H19BrF3N3O4S
